US03952031
2β,3α-Dihydroxy-5α-pregnane-11,20-dione
2α,3α-Epoxy-5α-pregnane-11,20-dione (207 mg.) in hot tetrahydrofuran (6 ml.) was treated with perchloric acid (60%, 0.05 ml.) in tetrahydrofuran (2 ml.) and water (2 ml.). The reaction mixture was concentrated to 5 ml., allowed to stand for 15 minutes and boiled for 30 minutes with the concurrent addition of water. The mixture was poured into ethyl acetate, and the aqueous layer was extracted with ethyl acetate. The combined organic extract was washed with water, dried over sodium sulphate and evaporated to a crystalline mass which was purified by preparative TLC to give the title compound (70 mg.) as colourless crystals, m.p. 194°-198°, [α]D + 103.5°.

reactant | 2α,3α-Epoxy-5α-pregnane-11,20-dione | 207 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]1(C2)C)=O)C | C21H30O3
reactant | perchloric acid | 0.05 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 2β,3α-Dihydroxy-5α-pregnane-11,20-dione | 70 mg | O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C21H32O4
